US07781435B2
(4-{2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-acetic acid methyl ester
(4-Nitro-imidazol-1-yl)-acetic acid methyl ester was reduced and coupled with 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid to afford the title compound; MS 409.1 m/z (M+1).

reactant | (4-Nitro-imidazol-1-yl)-acetic acid methyl ester | COC(CN1C=NC(=C1)[N+](=O)[O-])=O | C6H7N3O4
reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)O)CCC | C13H15F2NO3
product | (4-{2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-acetic acid methyl ester | COC(CN1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)=O | C19H22F2N4O4
